Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.81518528079
[C:1]#[C:2][C:3]([H:4])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.67891499176
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],7.38131425
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.5680993579400004
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[O:3])[O:9][C:10]([H:11])([H:12])[H:13],0.746800739121
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[O:9][H:10]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],-4.6412547571800005
[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-0.567169441588
[C:1]#[C:2][C:3]([H:4])[O:5][O:6]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[O:6],1.42997842903
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]1[C:3][O:4][C:5]1([H:6])[H:7],-0.2488479328
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([O:4][C:5])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-3.3731040236900003
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.60242560401
[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-8.060019769710001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],1.80338023636
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[O:3]=[C:4]([H:5])[H:6]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],0.330421087559
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2][C:3]#[C:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.10241264868
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],3.18781238513
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7],3.90041688308
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],-1.45845065477
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])[H:5],4.65922781887
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:4][C:5]([H:6])([H:9])[H:10].[C:3]#[C:7][H:8],5.20614821875
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1]=[C:2],0.784721579891
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],1.66730990699
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.0534570652
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:10][H:11].[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.82204537614
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][O:10]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8][O:9][O:10],-0.972635526041
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.69043433414
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],1.15976401577
[H:1][O:2][C:3]([O:5][H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.93507307034
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.33999247569
[O:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[H:13],2.66045549023
